US04154834
5-(4-Pyridylmethyl)-2-methylthio-4-pyrimidone (1.1 g) was reacted with 2-(3-bromo-2-pyridylmethylthio)ethylamine (1.15 g) according to the procedure of Example 2. The reaction mixture was triturated under hot water to give 2-[2-(3-bromo-2-pyridylmethylthio)ethylamino]-5-(4-pyridylmethyl)-4-pyrimidone. This product was acidified with dilute ethanolic hydrogen chloride, evaporated to dryness and the residue crystallised from ethanol to give the title compound m.p. 211°-215° (decomp).

reactant | 5-(4-Pyridylmethyl)-2-methylthio-4-pyrimidone | 1.1 g | N1=CC=C(C=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 2-(3-bromo-2-pyridylmethylthio)ethylamine | 1.15 g | BrC=1C(=NC=CC1)CSCCN | C8H11BrN2S
product | 2-[2-(3-bromo-2-pyridylmethylthio)ethylamino]-5-(4-pyridylmethyl)-4-pyrimidone | BrC=1C(=NC=CC1)CSCCNC1=NC=C(C(N1)=O)CC1=CC=NC=C1 | C18H18BrN5OS
